US04647662
44 g (1 mol) of acetaldehyde are added dropwise to a solution of 34.5 g (0.5 mol) of 1-pyrroline in 150 ml of ether. Hydrogen sulphide is then passed into the reaction mixture, while the latter is cooled with ice, until saturation is reached. After 10 g of magnesium sulphate have been added, the reaction mixture is kept at room temperature for 15 hours. When the ether has been removed by distillation, the residue is fractionally distilled. 43 g of 2,4-dimethyltetrahydropyrrolo[2.1-d]-[1,3,5]-dithiazine (boiling point at 6 mbar: 105° C.) are obtained.

reactant | acetaldehyde | 1 mol, 44 g | C(C)=O | C2H4O
reactant | 1-pyrroline | 0.5 mol, 34.5 g | N1=CCCC1 | C4H7N
reactant | Hydrogen sulphide | S | H2S
reactant | magnesium sulphate | 10 g | S(=O)(=O)([O-])[O-].[Mg+2]
reactant | ether | 150 ml | CCOCC | C4H10O
product | 2,4-dimethyltetrahydropyrrolo[2.1-d]-[1,3,5]-dithiazine | 43 g | CC1SC(N2C(S1)CCC2)C | C8H15NS2
